Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Patient with bilateral leg polyneuropathy and difficulty with
ambulation. 
 
Major Surgical or Invasive Procedure:
Lumbar puncture ___
 
History of Present Illness:
Mrs. ___ is a ___ year old right-handed woman who was diagnosed
with lupus in her ___  (but which has not been an issue for
more than ___ years) who presents to the ED for evaluation of
progressive bilateral leg parasthesias and difficulty with
walking. 

Mrs. ___ on ___ woke up with
numbness/burning/tingling/electric-like pain of the left foot,
particularly the medial dorsum.  Mrs. ___ went to see Dr.
___ primary physician, who ordered various lab and
imaging tests and based on the results of these tests sent her 
to
see a rheumatologist and neurologist.

Mrs. ___ was seen by rheumatologist on ___ who posited that
patient might have mononeuritis multiplex, but ordered 
additional
labs and recommended EMG evaluation.  Mrs. ___ was started on
prednisone 20 mg daily which she reports has been of some 
benefit
in the positive symptoms of her parasthesias, but not the
numbness. 

Mrs. ___ has continued to have the above pain of her left foot
without much evolution, but on ___ she noticed that she
developed numbness/burning/tingling/electric-pain of the right
foot, but particularly, again, the medial dorsum of the foot. 
Mrs. ___ reports that the pain of her right foot is much less
severe than the left foot. 

Mrs. ___ had an EMG ___ ___ who reported that
there was electrophysiologic evidence to suggest the presence of
a left-sided lumbosacral radiculopathy affecting the L5 myotome
superimposed on a milder, more chronic lumbosacral
polyradiculopathy affecting the L3-S1 myotomes.  There was no
electrophysiologic evidence for a large fiber polyneuropathy.  I
am uncertain if the right foot was tested, the order for the EMG
looks to have been placed before she had symptoms of this leg. 

Mrs. ___ lab results are summarized below.  
Labs: 
___: 1:640 (High)
Rheumatoid factor: 110 (High)
Anti-Ro >80 (High) 
Anti-La >17 (Normal)
Anti-DSDNA 74 (High)
___ 2 (Normal)
Anti-RNP 3 (Normal)
Hepatitis screen: Negative
Creatinine kinase: 60 (Normal)
CRP: 2.1 (Normal)
Sedimentation rate: 41 (High)
C3: 95.8 (Normal)
C4: 19 (Normal)
ANCA: Negative
Lupus anticoagulant: Negative 
Beta 2 glycoprotein: Negative
Cardiolipin: Negative
Complement: 120 (normal)
Lyme: Negative 
SPEP: 
Polyclonal increase in the gamma region consistent with chronic
inflammation or infection 

Imaging: 
She had venous imaging ___ which did not show venous
thrombosis.  She had CT chest ___ which revealed few pulmonary
nodules, the largest is 6 mm in right apex.  The plan was to
follow up with repeat imaging in 6 months.  She had a mammogram
___ with no evidence of malignancy.  

Mrs. ___ called Dr. ___ to give her an update on how she 
was
doing today and mentioned the continued left foot symptoms, but
also told her of the right foot symptoms.  Mrs. ___ expressed
that she was having difficulty with walking because of her
symptoms.  Mrs. ___ was told to come to the ED for further
evaluation. 

ROS:
Mrs. ___ reports that she has had about a 20 pound
unintentional weight loss over the last year.  Mrs. ___ denies
night sweats or fevers.  Mrs. ___ denies recent infections. 
Mrs. ___ denies any changes to her breasts.  Mrs. ___ denies
difficulty with breathing.  Mrs. ___ used to have very regular
bowel habits, but since perhaps ___ she has been having
alternating bouts of diarrhea and constipation.  She has not
observed blood in her stool.  She had a normal colonoscopy about
___ years ago. No rashes anywhere.  

 
Past Medical History:
Mrs. ___ sees a primary physician regularly, but does not have
any chronic medical conditions except for the diagnosis of lupus
in her twenties.    

 
Social History:
___
Family History:
Patient's sister has passed, but had complicated lupus 
 
Physical Exam:
ADMISSION EXAM:
===============
Temperature: 97.8 
Pulse: 92 
Blood pressure: 159/108 
Respiratory rate: 18 
Oxygen saturation: 99% RA 

General examination: 
Patient looks comfortable.  Patient's heart rate is regular.  
She
is not having difficulty with breathing.  Patient without signs
of swelling or inflammation at the major joints.  Patient 
without
rash. 

Neurologic examination: 
Mental status:  
She is awake, alert, and cooperative with the exam.  She is
attentive, able to say months of the year backwards.  Fund of
knowledge is intact.  She is oriented to place and date. 
Language is fluent.  Memory for recent and remote history is
intact.  
Cranial nerves:  
Pupils are equal and reactive.  Patient has exophoria of her 
left
eye which is chronic.  Extraocular movements are full.  Facial
sensation and movement are intact and symmetric.  Hearing is
intact to finger rub bilaterally.  Palate elevates 
symmetrically.
SCM and trapezius are full strength bilaterally.  Tongue is
midline.  
Motor:  
Tone is normal.  She has no pronator drift.  Strength is full,
except for at ___ extension which is ___ on left and 4+/5 on the
right.  Pertinently, I cannot overcome her resistance at 
tibialis
anterior, gastrocnemius, an toe flexion/extension. 
Sensation:  
Patient reports hyperesthesia to crude touch and pinprick in
L5-distribution on the dorsum of both feet. Patient can
appreciate large upward and downward excursion of giant toe, but
not small one. 
Coordination:  
Finger-nose-finger and finger-to-nose are intact without
dysmetria bilaterally.  
Reflexes:  
Patient does not have ankle reflexes, but other reflexes are
intact and symmetric. Plantar reflexes are flexor.  

DISCHARGE EXAM:
===============

-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name days of the week 
backward without difficulty. Language is fluent with intact 
repetition and comprehension. Normal prosody. There were no 
paraphasic errors with "no ifs and or buts" and "today is a 
sunny day." Pt was able to name both high and low frequency 
objects.  Able to read without difficulty. Speech was not 
dysarthric. Able to follow both midline and appendicular 
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  Exophoria in L eye, chronic. PERRL 4 to 2mm 
and brisk. EOMI without nystagmus. Normal saccades. VFF to 
confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    5     5    5    ___   4    5    5      5      5    
  4     5
R  4+  5     5    5    ___   4    5    5      5      5     
 4     5

-Sensory: Hyperesthesia to pinprick in L5 distribution 
bilaterally. Decreased position sense of the great toe on the R 
> L. Decreased vibration sense in the R foot > L foot. No 
deficits to light touch, pinprick, cold sensation, vibratory 
sense, proprioception throughout the upper extremities. No 
extinction to DSS.

-DTRs:
    Bi Tri ___ Pat Ach
L  2+   2+   2    2+    0
R  2+   2+   2    2+    0
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF bilaterally.

-Gait: Subjective "unsteadiness" while walking. Stride length 
decreased with mild stomping gait. Romberg absent.
 
Pertinent Results:
ADMISSION LABS:
___ 02:00PM BLOOD WBC-5.9 RBC-4.15 Hgb-13.2 Hct-39.9 MCV-96 
MCH-31.8 MCHC-33.1 RDW-14.7 RDWSD-52.0* Plt ___
___:00PM BLOOD Neuts-74.9* Lymphs-16.4* Monos-7.3 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-4.39 AbsLymp-0.96* 
AbsMono-0.43 AbsEos-0.03* AbsBaso-0.01
___ 02:00PM BLOOD Plt ___
___ 01:25PM BLOOD D-Dimer-773*
___ 02:00PM BLOOD Glucose-115* UreaN-15 Creat-0.7 Na-137 
K-4.0 Cl-97 HCO3-28 AnGap-12
___ 02:00PM BLOOD ALT-25 AST-30 AlkPhos-79 TotBili-0.8
___ 02:00PM BLOOD Lipase-75*
___ 02:00PM BLOOD cTropnT-<0.01
___ 02:00PM BLOOD Albumin-4.5 Calcium-9.5 Phos-4.2 Mg-2.0
___ 01:25PM BLOOD TotProt-8.0
___ 01:25PM BLOOD VitB12-335
___ 01:25PM BLOOD %HbA1c-5.6 eAG-114
___ 02:00PM BLOOD TSH-1.5
___ 12:40PM BLOOD CRP-2.4
___ 01:25PM BLOOD PEP-POLYCLONAL ___ IgA-364 IgM-236* 
IFE-NO MONOCLO
___ 01:25PM BLOOD Lyme Ab-NEG Trep Ab-NEG
___ 02:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 01:25PM BLOOD tTG-IgA-5

PENDING LABS:
___ 01:04PM BLOOD HVY MTL (WHLE BLD NVY/EDTA)-PND
___ 12:40PM BLOOD METHYLMALONIC ACID-PND
___ 01:25PM BLOOD COPPER (SPIN NVY/NO ADD)-PND
___ 01:25PM BLOOD VITAMIN E-PND
___ 01:25PM BLOOD ANGIOTENSIN 1 - CONVERTING ___
___ 02:39PM CEREBROSPINAL FLUID (CSF) ENCEPHALOPATHY, 
AUTOIMMUNE EVALUATION, SPINAL FLUID-PND

CSF STUDIES:
___ 02:39PM CEREBROSPINAL FLUID (CSF) TNC-1 RBC-3 Polys-1 
___ Macroph-38
___ 02:39PM CEREBROSPINAL FLUID (CSF) TotProt-50* 
Glucose-61

MRI C/T/L SPINE:
1. No cord abnormality lesion is identified.  Normal appearance 
of the cauda 
equina. There is no abnormal cord, leptomeningeal or cauda 
equina enhancement. 
2. Multilevel cervical spondylosis, most marked at C5-C6, with 
moderate canal 
narrowing and marked left neural foraminal narrowing, with 
possible 
impingement of the exiting left C6 nerve root. 
3. Mild thoracic spondylosis, as described. 
4. Lumbar spondylosis, with multilevel listhesis, as described.  
Spondylosis 
is most marked at L3-L4 level, with mild-to-moderate spinal 
canal narrowing 
secondary to listhesis, a diffuse disc bulge and prominent 
posterior epidural 
fat. 

CT TORSO:
1. No definite evidence of malignant disease within the thorax, 
abdomen or 
pelvis.  No evidence of lymphadenopathy, pleural effusions or 
ascites. 
2. A 5 mm nodule in the right upper pulmonary lobe is 
nonspecific.  Mild 
background centrilobular emphysematous changes.  Please see 
recommendations 
below. 
  
RECOMMENDATION(S):  For incidentally detected single solid 
pulmonary nodule 
smaller than 6 mm, no CT follow-up is recommended in a low-risk 
patient, and 
an optional CT in 12 months is recommended in a high-risk 
patient. 
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
====================
[ ] She was started on gabapentin 300mg BID for neuropathic 
pain. This was not further uptitrated as she felt it adequately 
treated her symptoms, but could be uptitrated as an outpatient 
if indicated.
[ ] She needs a follow-up chest CT scan in 12 months to evaluate 
for growth of an incidental pulmonary nodule found on CT torso.
[ ] Pending studies:
- CSF cytology
- CSF autoimmune and paraneoplastic panel
- Heavy metal screen
- Copper level
- Vitamin E level
- ACE

SUMMARY:
========
Ms. ___ is a ___ year old woman with history of Lupus diagnosed 
in her ___ who presented to the ED from her PCP's office with 
progressive bilateral lower extremity parasthesias and 
difficulty walking. Her exam was consistent with a bilateral L5 
radiculopathy along with signs suggestive of cervical disease in 
an upper motor neuron pattern. An MRI C/T/L spine was performed 
without a structural lesion to explain her symptoms. A CT torso 
was unrevealing for malignancy or other signs of systemic 
disease other than an incidental pulmonary nodule. An LP was 
performed with basic studies normal and many pending tests as 
above. She was discharged home with plan for continued 
outpatient workup with her established outpatient providers.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 20 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Gabapentin 300 mg PO BID 
RX *gabapentin 300 mg 1 capsule(s) by mouth twice a day Disp 
#*60 Capsule Refills:*0 
2.  Omeprazole 20 mg PO DAILY  
3.  PredniSONE 20 mg PO DAILY  
4.Outpatient Physical Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lumbar polyradiculopathy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear. ___,

___ was a pleasure taking care of you at ___!

WHY DID YOU COME TO THE HOSPITAL?
- You had numbness and tingling in your feet which caused you 
trouble with walking.
- You had shooting pain on the top and middle of your foot.

WHAT HAPPENED WHILE YOU WERE HERE?
- You had an MRI of your spine which didn't show anything 
specific to cause your symptoms.
- We did a CT scan of your body to look for anything 
contributing to your symptoms, but did not find anything.
- We did a spinal tap and most of the tests from this are still 
pending.
- We gave you gabapentin, a medicine to treat your shooting foot 
pain.

WHAT TO DO WHEN YOU LEAVE?
- Continue to take the gabapentin along with your other 
medicines.
- Go to your follow-up appointments as scheduled. 
- Go to physical therapy to strengthen your legs.

Best wishes,
Your ___ Neurology Team
 
Followup Instructions:
___